US06242493B1
Step 1: 2-(2-naphthylthio)benzaldehyde
A mixture of 2-thionaphthol (5.29 g; 33 mmol), 2-fluorobenzaldehyde (3.73 g; 33 mmol) and potassium carbonate (4.57 g; 33 mmol) in 28 mL of iso-propanol was heated to reflux for 12 h. The mixture was cooled to r.t., diluted with water and filtered. The solution was diluted with EtOAc and washed with water, brine and dry over MgSO4. The crude product (7.9 g) was used as is for the next step.

reactant | 2-thionaphthol | 33 mmol, 5.29 g | C1=CC=C2C=C(C=CC2=C1)S | C10H8S
reactant | 2-fluorobenzaldehyde | 33 mmol, 3.73 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | potassium carbonate | 33 mmol, 4.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | iso-propanol | 28 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 2-(2-naphthylthio)benzaldehyde | C1=C(C=CC2=CC=CC=C12)SC1=C(C=O)C=CC=C1 | C17H12OS
